### PR TITLE
[Merged by Bors] - feat(Analysis/Analytic): characterization of order

### PR DESCRIPTION
**Pull request by loefflerd**
Alternative characterization of the order of vanishing of analytic functions which avoids case splits on `ENat`. Also golf a proof using `filter_upwards`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by loefflerd** [comment]
Hi Stefan, happy Easter! I made this little PR with the code I originally posted as a comment on your PR #22680.

**Comment by kebekus** [comment]
@loefflerd Dear David, I hope you had a pleasant Easter break. I saw you requested a review from me, and I am more than glad to help. However, I have never done that before. I will try my best to follow the "Pull Request Review Guide," but do expect a few glitches.

File: Mathlib/Analysis/Analytic/Order.lean [hunk 1]
```diff
@@ -90,6 +90,31 @@ lemma apply_eq_zero_of_order_toNat_ne_zero (hf : AnalyticAt 𝕜 f z₀) :
...
+since it applies whether or not the order is `∞`. -/
+lemma natCast_le_order_iff (hf : AnalyticAt 𝕜 f z₀) {n : ℕ} :
+    n ≤ hf.order ↔ ∃ g, AnalyticAt 𝕜 g z₀ ∧ ∀ᶠ z in 𝓝 z₀, f z = (z - z₀) ^ n • g z := by
+  unfold order
+  split_ifs with h
+  · simpa using ⟨0, analyticAt_const .., by simpa⟩
+  · let m := (hf.exists_eventuallyEq_pow_smul_nonzero_iff.mpr h).choose
+    obtain ⟨g, hg, hg_ne, hm⟩ : ∃ g, AnalyticAt 𝕜 g z₀ ∧ g z₀ ≠ 0 ∧
+        ∀ᶠ z in 𝓝 z₀, f z = (z - z₀) ^ m • g z :=
+      (hf.exists_eventuallyEq_pow_smul_nonzero_iff.mpr h).choose_spec
```
Comment (kebekus) [inline Mathlib/Analysis/Analytic/Order.lean:103]:
```suggestion
    obtain ⟨g, hg, hg_ne, hm⟩ := (hf.exists_eventuallyEq_pow_smul_nonzero_iff.mpr h).choose_spec
```

Comment (kebekus) [reply Mathlib/Analysis/Analytic/Order.lean:103]: Trivial change that saves us two lines. Feel free to ignore.

**Review by kebekus — APPROVED** [review]
Thanks for this PR, which will certainly be helpful dealing with orders of analytic functions!

The code looks perfect to me, I see only one trivial optimization.

File: Mathlib/Analysis/Analytic/Order.lean (hunk 1 above)
Comment (loefflerd) [reply Mathlib/Analysis/Analytic/Order.lean:103]: Sure. I generally include the type explicitly when using `have` or `obtain` with a proof term, even when Lean can infer it, because it makes things easier for human readers. However, in this case the types of `hg` etc are pretty clear already from the name of the lemma `exists_eventuallyEq_pow_smul_nonzero_iff` that's being called, so the type annotation is indeed redundant.

**Comment by loefflerd** [comment]
Thanks for the review, Stefan!

**Comment by sgouezel** [comment]
I take the review by Stefan as a maintainer merge
bors r+
